US07285557B2
6-Bromo-3-[3-methoxy-4-(2-pyrrolidin-1-ylethoxy)phenyl]thieno[3,2-d]pyrimidin-4(3H)-one
5-Bromo-N-[3-methoxy-4-(pyrrolidin-1ylethoxy)phenyl]-3-nitrothiophene-carboxamide (0.2926 g, 0.6239 mmol) was dissolved in ethanol (10 mL). Tin chloride monohydrate (0.7038 g, 3.1195 mmol) was added and the reaction was heated to reflux. Stirred for 30 min, cooled to RT and concentrated. Ethyl acetate (20 mL) and a saturated solution of Rochelle's salts (20 mL) were added and the mixture was stirred for 2 h. Organics were removed and dried over MgSO4, filtered and concentrated. The residue was taken up in formic acid (5 mL), stirred at reflux for 1 h, and then concentrated to give 0.1182 g (0.2633 mmol, 42%) of the product. 1H NMR (CDCl3) δ 8.03 (s, 1H), 7.38 (s, 1H), 7.01 d, 1H J=8.4 Hz), 6.92-6.88 (m, 2H)), 4.41 (t, 2H, J=5.0 Hz), 3.85 (s, 3H), 3.44 (t, 2H, J=5.0 Hz), 3.28-3.2 (bs, 4H), 2.01-1.9 (bs, 4H).

reactant | 5-Bromo-N-[3-methoxy-4-(pyrrolidin-1ylethoxy)phenyl]-3-nitrothiophene-carboxamide | 0.6239 mmol, 0.2926 g | BrC1=CC(=C(S1)C(=O)NC1=CC(=C(C=C1)OCCN1CCCC1)OC)[N+](=O)[O-] | C18H20BrN3O5S
reactant | Tin chloride monohydrate | 3.1195 mmol, 0.7038 g | O.[Sn](Cl)(Cl)(Cl)Cl
reactant | ethanol | 10 mL | C(C)O | C2H6O
product | 6-Bromo-3-[3-methoxy-4-(2-pyrrolidin-1-ylethoxy)phenyl]thieno[3,2-d]pyrimidin-4(3H)-one | 0.2633 mmol, 0.1182 g, 42% | BrC1=CC=2N=CN(C(C2S1)=O)C1=CC(=C(C=C1)OCCN1CCCC1)OC | C19H20BrN3O3S
